US08034812B2
Production of 6-iodoimidazo[1,2-b]pyridazin-2-amine
To a suspension of tert-butyl (6-iodoimidazo[1,2-b]pyridazin-2-yl)carbamate (10.2 g, 28.3 mmol) in ethyl acetate (50 mL) was added 4N hydrochloric acid/ethyl acetate (75 mL), and the mixture was stirred at room temperature for 4 hr. Diethyl ether (200 mL) was added to the reaction mixture, and the precipitate was filtrated. After washing with saturated aqueous sodium hydrogencarbonate solution, the filtrate was washed with water, acetonitrile and diethyl ether to give the title compound (4.9 g, 67%) as a green powder.

reactant | tert-butyl (6-iodoimidazo[1,2-b]pyridazin-2-yl)carbamate | 28.3 mmol, 10.2 g | IC=1C=CC=2N(N1)C=C(N2)NC(OC(C)(C)C)=O | C11H13IN4O2
reactant | hydrochloric acid ethyl acetate | 4N, 75 mL | Cl.C(C)(=O)OCC
reactant | Diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 6-iodoimidazo[1,2-b]pyridazin-2-amine | 4.9 g, 67% | IC=1C=CC=2N(N1)C=C(N2)N | C6H5IN4
